US08466290B2
N-[5-(2-furyl)-1,3,4-oxadiazol-2-yl]-8-methyl-2-(2-thienyl)-4-quinolinecarboxamide (compound Ia-31)
Triphenylphosphine bromide (352 mg, 0.80 mmol) was added to a methylene chloride (1 mL) solution of commercially available 8-methyl-2-(2-thienyl)-4-quinolinecarboxylic acid (108 mg, 0.40 mmol), and the mixture was stirred at room temperature for 1 hour. The reaction solution was added to a pyridine (3 mL) solution of 2-amino-5-(2-furyl)-1,3,4-oxadiazole (90.7 mg, 0.60 mmol), and the mixture was stirred at room temperature for 2 hours and then heated with stirring overnight at 60° C. The reaction solution was concentrated. After that, to the residue, water was added, and the deposited solid was collected by filtration, washed with water, dried, and then purified by preparative HPLC to obtain the title compound (22 mg, 0.05 mmol).

reactant | Triphenylphosphine bromide | 0.80 mmol, 352 mg | [Br-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
reactant | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
reactant | 8-methyl-2-(2-thienyl)-4-quinolinecarboxylic acid | 0.40 mmol, 108 mg | CC=1C=CC=C2C(=CC(=NC12)C=1SC=CC1)C(=O)O | C15H11NO2S
reactant | 2-amino-5-(2-furyl)-1,3,4-oxadiazole | 0.60 mmol, 90.7 mg | NC=1OC(=NN1)C=1OC=CC1 | C6H5N3O2
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | N-[5-(2-furyl)-1,3,4-oxadiazol-2-yl]-8-methyl-2-(2-thienyl)-4-quinolinecarboxamide | 0.05 mmol, 22 mg | O1C(=CC=C1)C1=NN=C(O1)NC(=O)C1=CC(=NC2=C(C=CC=C12)C)C=1SC=CC1 | C21H14N4O3S
